US06107458
A mixture of Methyl 3-[4-(4-pentyloxyphenyl)phenyl]acrylate (2.70 g) and platinum oxide (0.41 g) in tetrahydrofuran (40 ml) was stirred for 8 hours under 3 atom of hydrogen at ambient temperature. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give Methyl 3-[4-(4-pentyloxyphenyl)phenyl]propionate (2.70 g).

reactant | Methyl 3-[4-(4-pentyloxyphenyl)phenyl]acrylate | 2.70 g | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C=CC(=O)OC | C21H24O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | platinum oxide | 0.41 g | [Pt]=O
product | Methyl 3-[4-(4-pentyloxyphenyl)phenyl]propionate | 2.70 g | C(CCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCC(=O)OC | C21H26O3
